US04816591
Reaction of ethyl α-methyl-p-hydroxyphenylacetate with ethyl α-bromo-o-toluate by the method described in Example 1b provides ethyl 4-(2-ethoxycarbonylbenzyloxy)-α-methylphenylacetate as a clear oil.

reactant | ethyl α-methyl-p-hydroxyphenylacetate | CC(C(=O)OCC)C1=CC=C(C=C1)O | C11H14O3
reactant | ethyl α-bromo-o-toluate | BrCC=1C(=CC=CC1)C(=O)OCC | C10H11BrO2
product | ethyl 4-(2-ethoxycarbonylbenzyloxy)-α-methylphenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)C(C(=O)OCC)C)C=CC=C1 | C21H24O5
